Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Cipro / vancomycin / Lovenox
 
Attending: ___.
 
Chief Complaint:
Right hip arthritis
 
Major Surgical or Invasive Procedure:
Right hip arthroplasty ___, ___

 
History of Present Illness:
___ is ___ female who presents for right hip pain at the 
request of Dr. ___ in ___ and Dr ___. Symptoms 
began approximately 9 months ago.  Pain is located at the right 
groin.  It tends to radiate into the thigh.  At rest pain is 8 
or 9 out of 10 with activity is as severe as 10 out of 10.  
Walking and turning in bed makes the pain worse.  Nothing really 
makes the pain better.  She has been using a rolling walker and 
a cane for the past several months.  In ___ she 
underwent gastric sleeve.  She has lost about 100 pounds since 
that time but seems to have plateaued in her weight loss. 
Most recent weight has been approximately 300 pounds and she is 
___ foot 5 inches tall.  She has been a diabetic in the past but 
after the weight loss surgery she has been able to come off of 
all medications and her fingerstick sugars are consistently 
between 98 and 106.  She does have a significant history of a 
DVT
in the left lower extremity in ___.  This was unprovoked and 
treated with 6 months of blood thinners.  Initially she was 
given Lovenox but had a local allergic reaction to this 
medication that she was changed to Coumadin.  She has 
obstructive sleep apnea and uses a CPAP device in the evening.  
She is unable to take anti-inflammatory medication secondary to 
recent gastric bypass. 
She is not taking other medications.  She has not had recent 
physical therapy.  She has never had hip surgery.  She has had 
multiple intra-articular hip injections most recently in ___ which did not really work.  The last couple of hip 
injection she had did not particularly work.

 
Past Medical History:
Morbid obesity s/p lap sleeve (___), unprovoked DVT (___), 
T2DM, OSA

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with Aquacel dressing with scant 
serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm

 
Pertinent Results:
___ 06:05AM BLOOD WBC-11.3* RBC-3.17* Hgb-9.1* Hct-28.8* 
MCV-91 MCH-28.7 MCHC-31.6* RDW-12.7 RDWSD-42.5 Plt ___
___ 07:20AM BLOOD WBC-9.8 RBC-3.44* Hgb-9.9* Hct-31.1* 
MCV-90 MCH-28.8 MCHC-31.8* RDW-13.0 RDWSD-42.7 Plt ___
___ 06:35AM BLOOD WBC-10.0 RBC-3.90 Hgb-11.2 Hct-35.8 
MCV-92 MCH-28.7 MCHC-31.3* RDW-13.1 RDWSD-43.5 Plt ___
___ 06:05AM BLOOD Plt ___
___ 07:20AM BLOOD Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-140* UreaN-17 Creat-0.8 Na-142 
K-4.5 Cl-97 HCO3-34* AnGap-11
___ 06:35AM BLOOD Calcium-8.6 Phos-4.1 Mg-2.0
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:
POD#1, the patient was started on a topical cream to help with a 
rash under her pannus.
POD#2, the patient had a white count of 11.3, but remained 
afebrile during her hospitalization (Tmax: 99.7).  The rehab can 
do a further work-up if the patient shows any signs of an 
infection (i.e., urines, CXR).

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received Xarelto 10 mg daily for 
DVT prophylaxis starting on the morning of POD#1.  The surgical 
dressing will remain on until POD#7 after surgery.  The patient 
was seen daily by physical therapy. Labs were checked throughout 
the hospital course and repleted accordingly. At the time of 
discharge the patient was tolerating a regular diet and feeling 
well.  The patient was afebrile with stable vital signs.  The 
patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the dressing was intact.
 
The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity with posterior precautions. 
Walker or two crutches, wean as able.
 
Ms. ___ is discharged to rehab in stable condition.

 
Medications on Admission:
1. Gabapentin 600 mg PO TID 
2. Tizanidine 2 mg PO Q8H:PRN Spasm 
3. Ranitidine 150 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Montelukast 10 mg PO QHS 
6. Furosemide 80 mg PO BID 
7. DULoxetine 60 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
2.  Betamethasone Dipro 0.05% Oint 1 Appl TP BID  
3.  Clotrimazole Cream 1 Appl TP BID  
4.  Docusate Sodium 100 mg PO BID 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain  
6.  Rivaroxaban 10 mg PO DAILY Duration: 28 Days 
7.  Senna 8.6 mg PO BID 
8.  DULoxetine 60 mg PO DAILY  
9.  Furosemide 80 mg PO BID  
10.  Gabapentin 600 mg PO TID  
11.  Montelukast 10 mg PO QHS  
12.  Pravastatin 20 mg PO QPM  
13.  Ranitidine 150 mg PO DAILY  
14.  Tizanidine 2 mg PO Q8H:PRN Spasm  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right hip arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
  
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
  
3. Resume your home medications unless otherwise instructed.
  
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
  
5. You may not drive a car until cleared to do so by your 
surgeon.
  
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.
  
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. 
  
8. ANTICOAGULATION: Please take Xarelto 10 mg daily with food 
for four (4) weeks to help prevent deep vein thrombosis (blood 
clots).  
  
9. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower after surgery while wearing your aquacel 
dressing, but no tub baths, swimming, or submerging your 
incision until after your first checkup and cleared by your 
surgeon. After the aquacel dressing is removed 7 days after your 
surgery, you may leave the wound open to air. Check the wound 
regularly for signs of infection such as redness or thick yellow 
drainage and promptly notify your surgeon of any such findings 
immediately.
  
10. ___ (once at home): Home ___, Aquacel removal POD#7, and 
wound checks. 
  
11. ACTIVITY: Weight bearing as tolerated with two crutches or 
walker for as long as you need. The physical therapist will help 
guide you until you are safe to wean from assistive devices. 
Posterior hip precautions. No strenuous exercise or heavy 
lifting until follow up appointment.  Mobilize frequently. 
Physical Therapy:
WBAT RLE
Posterior hip precautions
Wean assistive devices (i.e., 2 crutches, walker) as able
Mobilize frequently
Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed
 
Followup Instructions:
___